US07465739B2
Reference example: Preparation of N-benzyl-3,4,5-trimethoxybenzamide
3,4,5-Trimethoxybenzoyl chloride (5.0 g, 21.7 mmol) was dissolved in dichloromethane (50 ml). The reaction mixture was cooled with an ice-bath and benzylamine (4.74 ml, 43.4 mmol) was added slowly. The solid material was removed by filteration. The filtrate was poured into 30 ml of water. The organic phase was washed several times with water. The crude product was recrystallized from i-propanol.

reactant | 3,4,5-Trimethoxybenzoyl chloride | 21.7 mmol, 5.0 g | COC=1C=C(C(=O)Cl)C=C(C1OC)OC | C10H11ClO4
reactant | benzylamine | 43.4 mmol, 4.74 ml | C(C1=CC=CC=C1)N | C7H9N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N-benzyl-3,4,5-trimethoxybenzamide | C(C1=CC=CC=C1)NC(C1=CC(=C(C(=C1)OC)OC)OC)=O | C17H19NO4
